US06153611
Cis and trans 1-[4-(4-fluoro-1-naphthalenyl)-1-cyclohexyl]-4-(phenylmethyl)piperazine
A mixture of platinum oxide (0.1 g) and 1-[4-(4-fluoro-1-naphthalenyl)-3-cyclohexen-1-yl]-4-(phenylmethyl)piperazine (1.1 g, 2.7 mmole) was hydrogenated for 13 hr in 20 ml acetic acid. The catalyst was removed and the solution concentrated in vacuo. The residue was suspended in water and the mixture basified with potassium carbonate. The mixture was extracted with ether, the extracts were dried over sodium sulfate and the solution concentrated in vacuo. The residue was purified by chromatography on silica gel eluting with 2-propanol-ethyl acetate-hexane (3:10:87). Fractions containing the less polar material were concentrated in vacuo to give the cis isomer (25%, mp: 130-132° C.). Calc'd for C27H31FN2.0.1H2O: C, 80.21%; H, 7.78%; N, 6.93%. Found: C, 80.12%; H, 7.80%; N, 6.89%.

reactant | 1-[4-(4-fluoro-1-naphthalenyl)-3-cyclohexen-1-yl]-4-(phenylmethyl)piperazine | 2.7 mmole, 1.1 g | FC1=CC=C(C2=CC=CC=C12)C1=CCC(CC1)N1CCN(CC1)CC1=CC=CC=C1 | C27H29FN2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 0.1 g | [Pt]=O
product | trans 1-[4-(4-fluoro-1-naphthalenyl)-1-cyclohexyl]-4-(phenylmethyl)piperazine | FC1=CC=C(C2=CC=CC=C12)[C@@H]1CC[C@H](CC1)N1CCN(CC1)CC1=CC=CC=C1 | C27H31FN2
